US07951824B2
Step 1: 3,6-Dimethyl-4-nitro-pyridine-2-carbonitrile
The title compound, was prepared by treatment of 2,5-Dimethyl-4-nitropyridine-N-oxide (CAS: [21816-42-2], J. Heterocyclic Chem. 34(3), 727(1997)) with Dimethylsulfate and Potassium cyanide in accordance with the general method of example 1, step 1 to yield the title compound as a brown solid.

reactant | 2,5-Dimethyl-4-nitropyridine-N-oxide | CC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C7H8N2O3
reactant | Dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | Potassium cyanide | [C-]#N.[K+]
product | 3,6-Dimethyl-4-nitro-pyridine-2-carbonitrile | CC=1C(=NC(=CC1[N+](=O)[O-])C)C#N | C8H7N3O2
